2141-06-11 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  COPD Exacerbation
   24 Hour Events:
   Per IP switching to water seal this morning
   Coag + staph/oropharyngeal flora in sputum cx
   Switched to PO flagyl
   Decreased PEEP to 5
   Weaned off pressors
   Tapered methylprednisolone to 60mg
   KUB did not show dilated loops of small bowel
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-6-9**] 06:55 AM
   Levofloxacin - [**2141-6-9**] 08:00 PM
   Vancomycin - [**2141-6-10**] 08:40 AM
   Metronidazole - [**2141-6-10**] 06:07 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2141-6-10**] 01:19 PM
   Pantoprazole (Protonix) - [**2141-6-10**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-10**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-11**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.2
C (97.2
   HR: 90 (64 - 103) bpm
   BP: 127/86(96) {93/50(62) - 140/86(144)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 12 (8 - 16)mmHg
   Total In:
                                                                    945 mL
                                                                    148 mL
   PO:
   TF:
   IVF:
                                                                    945 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    315 mL
   Urine:
                                                                  1,360 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -415 mL
                                                                   -167 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 1,454 (551 - 1,454) mL
   RR (Set): 15
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: ///31/
   Ve: 4.5 L/min
   Physical Examination
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   IJ in place.
   Chest: JP drain in left chest (chest tube) in place, breath sounds
   slightly less on left than right
   Cor: Normal S1, S2. Regular, tachycardic. No murmurs appreciated.
   Abdomen: Soft, + distended.
   Extremity: Warm, without edema. 2+ DP pulses bilat. Trace LE to
   mid-calves bilaterally. Diffuse ecchymotic patches.
   Labs / Radiology
   221 K/uL
   8.6 g/dL
   144 mg/dL
   1.0 mg/dL
   31 mEq/L
   4.1 mEq/L
   33 mg/dL
   104 mEq/L
   144 mEq/L
   26.9 %
   6.8 K/uL
        [image002.jpg] Recheck HCT Pending
                             [**2141-6-8**]  10:31 PM
                             [**2141-6-9**]  02:51 AM
                             [**2141-6-9**]  04:05 AM
                             [**2141-6-9**]  03:07 PM
                             [**2141-6-9**]  03:33 PM
                             [**2141-6-10**]  02:49 AM
                             [**2141-6-11**]  03:56 AM
   WBC
   13.0
   5.8
   9.2
   6.8
   Hct
   34.4
   34.0
   30.0
   26.9
   Plt
   [**Telephone/Fax (3) 8836**]21
   Cr
   1.2
   1.2
   1.1
   1.0
   TropT
   0.02
   TCO2
   29
   29
   34
   Glucose
   [**Telephone/Fax (3) 8837**]44
   Other labs: Ca++:7.7 mg/dL, Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   81 yoF with a h/o dCHF, COPD and eosinophilic lung disease presents
   with acute onset of respiratory distress in setting of several days of
   worsening dyspnea.
   #. Acute on chronic respiratory failure: Most likely etiology is COPD
   exacerbation plus PNA.  Patient has a history of poorly differentiated
   eosnophilic pneumonitis based on bx in [**2138**] of mucosa.  Unclear if this
   is related to patient
s current state.  CTA neg for PE.  Patient
s CT
   shows RLL infiltrate.
   -pt grew gram + cocci in sputum so is on vancomycin and levofloxacin
   but also started on flagyl given bad h/o c diff.
   -f/u above cx and sensitivities and narrow appropriately
   -standing albuterol and ipratropium MDI
   -d/c methylprednisolone and start solumedrl 60 q8hrs
   - Continue pressure support, adjust settings as patient tolerates
   -pressure support trial today with VBG or ABG after, decrease PEEP from
   12->8
   -reattempt a line placement which failed yesterday
   .
   # PTX: Complication of placing L IJ as pt abruptly sat partway up
   during procedure.  Pt s/p pigtail placement with good decompressing.
   Breath sounds in left lung returned but slightly less than right lung
   still.
   -discuss with IP putting to water seal and then repeating CXR in 4 hrs
   .
   # ?Sepsis: dropping SBP and requiring pressors.  However no white count
   and afebrile.  Pt on levophed
   -taper levophed
   -bolus PRN to maintain MAP>60
   .
   # Acute renal failure:  Patient
s Cr on admission was 1.0 and trend is
   1.2-> 1.1  Patient did receive dye load for CTA.
   - follow creatinine
   #. ECG changes: Most likely secondary to transient demand ischemia in
   setting of respiratory distress
   -continue home ASA and statin
   -hold BB in setting of labile BP, however will restart as soon as able
   .
   #. Anemia: HCT currently at baseline. W/U in [**1-23**] c/w AOCD and
   possible Fe deficiency. [**Month (only) 60**] need further w/u as outpt.
   .
   #Abd distension
   -KUB today to ensure no SBO
   -bowel regimen, if no stool consider rectal tube
   .
   #Hyperglycemia yesterday
   -monitor glc control and consider insulin gtt if high sugars
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-6-8**] 10:32 PM
   Multi Lumen - [**2141-6-9**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-11 15:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: COPD Exacerbation
   24 Hour Events:
   Per IP switching to water seal this morning
   Coag + staph/oropharyngeal flora in sputum cx
   Switched to PO flagyl
   Decreased PEEP to 5
   Weaned off pressors
   Tapered methylprednisolone to 60mg
   KUB did not show dilated loops of small bowel
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-6-9**] 06:55 AM
   Levofloxacin - [**2141-6-9**] 08:00 PM
   Vancomycin - [**2141-6-11**] 08:22 AM
   Metronidazole - [**2141-6-11**] 03:26 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-6-10**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-10**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-11**] 03:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.2
C (97.2
   HR: 68 (64 - 103) bpm
   BP: 104/56(69) {93/50(62) - 140/86(96)} mmHg
   RR: 19 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 13 (8 - 20)mmHg
   Total In:
                                                                    945 mL
                                                                    482 mL
   PO:
   TF:
   IVF:
                                                                    945 mL
                                                                    482 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    975 mL
   Urine:
                                                                  1,360 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -415 mL
                                                                   -493 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 1,454 (551 - 1,454) mL
   PC : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 26 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 6.5 L/min
   Physical Examination
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   IJ in place.
   Chest: JP drain in left chest (chest tube) in place, breath sounds
   slightly less on left than right
   Cor: Normal S1, S2. Regular, tachycardic. No murmurs appreciated.
   Abdomen: Soft, + distended.
   Extremity: Warm, without edema. 2+ DP pulses bilat. Trace LE to
   mid-calves bilaterally. Diffuse ecchymotic patches.
   Labs / Radiology
   221 K/uL
   8.6 g/dL
   144 mg/dL
   1.0 mg/dL
   31 mEq/L
   4.1 mEq/L
   33 mg/dL
   104 mEq/L
   144 mEq/L
   27.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2141-6-8**]  10:31 PM
                             [**2141-6-9**]  02:51 AM
                             [**2141-6-9**]  04:05 AM
                             [**2141-6-9**]  03:07 PM
                             [**2141-6-9**]  03:33 PM
                             [**2141-6-10**]  02:49 AM
                             [**2141-6-11**]  03:56 AM
                             [**2141-6-11**]  12:13 PM
   WBC
   13.0
   5.8
   9.2
   6.8
   Hct
   34.4
   34.0
   30.0
   26.9
   27.0
   Plt
   [**Telephone/Fax (3) 8836**]21
   Cr
   1.2
   1.2
   1.1
   1.0
   TropT
   0.02
   TCO2
   29
   29
   34
   Glucose
   [**Telephone/Fax (3) 8837**]44
   Other labs: PT / PTT / INR:13.6/137.7/1.2, CK / CKMB /
   Troponin-T:216/6/0.02, ALT / AST:22/30, Alk Phos / T Bili:83/0.2,
   Lactic Acid:2.5 mmol/L, Albumin:3.5 g/dL, LDH:268 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   81 yoF with a h/o dCHF, COPD and eosinophilic lung disease presents
   with acute onset of respiratory distress in setting of several days of
   worsening dyspnea.
   #. Acute on chronic respiratory failure: Most likely etiology is COPD
   exacerbation plus PNA.  Patient has a history of poorly differentiated
   eosnophilic pneumonitis based on bx in [**2138**] of mucosa.  Unclear if this
   is related to patient
s current state.  CTA neg for PE.  Patient
s CT
   shows RLL infiltrate.   Patient
s sputum has grown out gram + cocci
   (unspeciated).  Patient failed breathing treatment this AM secondary to
   apnea.
   - Continue vancomycin and levofloxacin (on flagyl given bad h/o c
   diff.)
   - f/u above cx and sensitivities and narrow appropriately
   - standing albuterol and ipratropium MDI
   - Continue methylprednisolone 60mg q8hrs
   - Opt to keep patient intubated as she was difficult intubation
   - PSV trial tomorrow
   .
   # PTX: Complication of placing L IJ as pt abruptly sat partway up
   during procedure.  Pt s/p pigtail placement with good decompressing.
   Breath sounds in left lung returned but slightly less than right lung
   still.
   - Continue suction
   .
   # Acute renal failure:  Resolved.  Patient
s Cr on admission was 1.0
   and trend is 1.2-> 1.1  Patient did receive dye load for CTA.
   - follow creatinine
   #. ECG changes: Most likely secondary to transient demand ischemia in
   setting of respiratory distress
   -continue home ASA and statin
   -hold BB in setting of labile BP, however will restart as soon as able
   .
   #. Anemia: HCT currently at baseline. W/U in [**1-23**] c/w AOCD and
   possible Fe deficiency. [**Month (only) 60**] need further w/u as outpt.
   - Trend HCT
   .
   #Hyperglycemia:  Controlled
   -monitor glc control and consider insulin gtt if high sugars
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-6-8**] 10:32 PM
   Multi Lumen - [**2141-6-9**] 05:00 PM
   PICC Line - [**2141-6-11**] 12:36 PM
   Prophylaxis:
   DVT:  SCH
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-12 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Unable to tolerate pressure support, patient apneic during trial
   - Repeat HCT stable
   - Flagyl changed to IV
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-6-9**] 06:55 AM
   Vancomycin - [**2141-6-11**] 08:22 AM
   Levofloxacin - [**2141-6-11**] 09:00 PM
   Metronidazole - [**2141-6-12**] 12:00 AM
   Nafcillin - [**2141-6-12**] 01:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-12**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 80 (65 - 101) bpm
   BP: 126/60(77) {94/49(60) - 140/86(96)} mmHg
   RR: 18 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 14 (10 - 20)mmHg
   Total In:
                                                                    713 mL
                                                                    296 mL
   PO:
   TF:
   IVF:
                                                                    713 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    300 mL
   Urine:
                                                                  1,455 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -742 mL
                                                                     -4 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 1,454 (1,454 - 1,454) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 26
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: 7.41/54/98.[**Numeric Identifier 248**]//7
   Ve: 7 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   IJ in place.
   Chest: JP drain in left chest (chest tube) in place, breath sounds
   coarse
   Cor: Normal S1, S2. Regular, tachycardic. No murmurs appreciated.
   Abdomen: Soft, + distended.
   Extremity: Warm. 2+ DP pulses bilat. Trace LE to mid-calves
   bilaterally. Diffuse ecchymotic patches with some skin breaks.
   Labs / Radiology
   185 K/uL
   8.0 g/dL
   142 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.5 mEq/L
   28 mg/dL
   108
   145 mEq/L
   25.2 %
   5.3 K/uL
        [image002.jpg]
                             [**2141-6-8**]  10:31 PM
                             [**2141-6-9**]  02:51 AM
                             [**2141-6-9**]  04:05 AM
                             [**2141-6-9**]  03:07 PM
                             [**2141-6-9**]  03:33 PM
                             [**2141-6-10**]  02:49 AM
                             [**2141-6-11**]  03:56 AM
                             [**2141-6-11**]  12:13 PM
                             [**2141-6-12**]  04:26 AM
                             [**2141-6-12**]  04:58 AM
   WBC
   13.0
   5.8
   9.2
   6.8
   5.3
   Hct
   34.4
   34.0
   30.0
   26.9
   27.0
   25.2
   Plt
   [**Telephone/Fax (3) 8836**]21
   185
   Cr
   1.2
   1.2
   1.1
   1.0
   TropT
   0.02
   TCO2
   29
   29
   34
   35
   Glucose
   [**Telephone/Fax (3) 8837**]44
   Other labs: [**6-9**] Resp cx: MSSA (moderate), GNR (sparse); [**6-9**] Bcx NGTD
   Assessment and Plan
   81 yoF with a h/o dCHF, COPD and eosinophilic lung disease presents
   with acute onset of respiratory distress in setting of several days of
   worsening dyspnea.
   #. Acute on chronic respiratory failure: Most likely etiology is COPD
   exacerbation with RLL MSSA PNA.  CTA neg for PE. Of note, patient has a
   history of poorly differentiated eosnophilic pneumonitis based on bx in
   [**2138**] of mucosa. Patient failed another breathing treatment this AM
   secondary to apnea but currently tolerating pressure support [**6-20**].
   Barriers to extubation include copious secretions, decreased
   respiratory drive, h/o difficult intubation
   - Check VBG s/p PS x 1 h
   - Defer SBT till tomorrow pending further tx of PNA with nafcillin, d/c
   levofloxacin
   - Standing albuterol and ipratropium MDI
   - Place OGT and switch to prednisone 60mg
   .
   # PTX: Still with evidence of leak. Complication of placing L IJ as pt
   abruptly sat partway up during procedure.  Pt s/p pigtail placement
   with good decompressing.
   - Continue suction, transition to water seal when able to extubate
   - Daily CXR
   .
   #. ECG changes: Most likely secondary to transient demand ischemia in
   setting of respiratory distress
   -Resume home ASA and statin with OGT placement
   -hold BB in setting of labile BP, however will restart as soon as able
   .
   #. Anemia: HCT currently mildly downtrending. W/U in [**1-23**] c/w AOCD and
   possible Fe deficiency. [**Month (only) 60**] need further w/u as outpt.
   - Trend HCT
   .
   # Acute renal failure:  Resolved.  Patient
s Cr on admission was 1.0
   and trend is 1.2-> 0.8.  Patient did receive dye load for CTA.
   .
   #Hyperglycemia:  Controlled
   -monitor glc control and consider insulin gtt if high sugars
   ICU Care
   Nutrition: Consult Nutrition and start tube feeds as pt has been
   intubated now for 4 days
   Glycemic Control:  Controlled
   Lines:
   Multi Lumen - [**2141-6-9**] 05:00 PM
   PICC Line - [**2141-6-11**] 12:36 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending improvement in respiratory status

2141-06-12 10:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2141-6-11**] 12:36 PM
   -PSV trial complicated by absence of RR
   -Flagyl change to IV
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-11**] 08:22 AM
   Levofloxacin - [**2141-6-11**] 09:00 PM
   Nafcillin - [**2141-6-12**] 01:00 AM
   Metronidazole - [**2141-6-12**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-12**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 82 (67 - 101) bpm
   BP: 142/66(85) {94/49(60) - 142/77(92)} mmHg
   RR: 20 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
   CVP: 14 (10 - 20)mmHg
   Total In:
                                                                    713 mL
                                                                    460 mL
   PO:
   TF:
   IVF:
                                                                    713 mL
                                                                    460 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    620 mL
   Urine:
                                                                  1,455 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -742 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 26
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.41/54/98.[**Numeric Identifier 248**]/31/7
   Ve: 7.5 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )-_Crepitus on exam today
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   185 K/uL
   142 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.5 mEq/L
   28 mg/dL
   108 mEq/L
   145 mEq/L
   25.2 %
   5.3 K/uL
        [image002.jpg]
                             [**2141-6-8**]  10:31 PM
                             [**2141-6-9**]  02:51 AM
                             [**2141-6-9**]  04:05 AM
                             [**2141-6-9**]  03:07 PM
                             [**2141-6-9**]  03:33 PM
                             [**2141-6-10**]  02:49 AM
                             [**2141-6-11**]  03:56 AM
                             [**2141-6-11**]  12:13 PM
                             [**2141-6-12**]  04:26 AM
                             [**2141-6-12**]  04:58 AM
   WBC
   13.0
   5.8
   9.2
   6.8
   5.3
   Hct
   34.4
   34.0
   30.0
   26.9
   27.0
   25.2
   Plt
   [**Telephone/Fax (3) 8836**]21
   185
   Cr
   1.2
   1.2
   1.1
   1.0
   0.8
   TropT
   0.02
   TCO2
   29
   29
   34
   35
   Glucose
   [**Telephone/Fax (3) 8837**]44
   142
   Other labs: PT / PTT / INR:13.6/137.7/1.2, CK / CKMB /
   Troponin-T:216/6/0.02, ALT / AST:22/30, Alk Phos / T Bili:83/0.2,
   Lactic Acid:2.5 mmol/L, Albumin:3.5 g/dL, LDH:268 IU/L, Ca++:7.8 mg/dL,
   Mg++:3.1 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: 7.41/54/98
   Microbiology: BC--NGTD
   Assessment and Plan
   81 yo female with history of COPD and PTX secondary to procedure and
   patient non-compliance during procedure leading to PTX and chest tube
   decompression.  She has had improvement in ventilator requirements with
   ability to wean down FIO2 to 40% and now has complications of centrally
   driven apnea with move to PSV support.  This has been addressed with
   some improvement/weaning of sedation.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   1)RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
Initial need for intubation
   is attributable to pneumonia and exacerbation of COPD in the setting of
   pneumonia.  We have MSSA in sputum identified. Current barriers to
   extubation are really secretions, persistent airways obstruction and
   decreased respiratory drive.
   -Pneumonia-Will treat with Nafcillin for MSSA at this time.
   -COPD
Continue with Methylprednisolone until GI access achieved
   -Decreased respiratory drive
Sedation to wean, will utilize goal
   PCO2=55-60
   -Secretions
will have to monitor secretion volume as has shown some
   improvement over time
   -Caution is being pursued given notion of difficult airway based upon
   Dr. [**Last Name (STitle) 8851**]
s intubation experience
   2)Pneumothorax-Has persistent leak
   -Will repeat CXR
   -Will continue with suction while on PEEP and with persistent leak
   Additional issues to be addressed as defined in the housestaff note of
   this date.
   ICU Care
   Nutrition: npo for now
will have to return to enteral access if unable
   to extubate today
   Glycemic Control:
   Lines:
   Multi Lumen - [**2141-6-9**] 05:00 PM
   PICC Line - [**2141-6-11**] 12:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2141-06-13 06:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Dyspnea
   24 Hour Events:
   - OGT placed -> prednisone po, famotidine po
   - Levo discontinued
   - Cipro started for Pseudo+ sputum cx
   - Increased crepitus -> CXR w/o PTX, only SC air
   - Tolerated PS 5/5 trial but sedation increased for agitation so
   switched to MVV then AC overnight
   - Haldol 0.5 mg x 1 given with no effect.
   - Lorazepam 1 mg IV given with some effect.
   - on PS 5/5 in AM with RSBI 57
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-11**] 08:22 AM
   Levofloxacin - [**2141-6-11**] 09:00 PM
   Metronidazole - [**2141-6-13**] 12:10 AM
   Nafcillin - [**2141-6-13**] 05:24 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-6-13**] 12:34 AM
   Heparin Sodium (Prophylaxis) - [**2141-6-13**] 05:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-13**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 91 (65 - 102) bpm
   BP: 157/81(99) {106/54(68) - 161/108(114)} mmHg
   RR: 19 (7 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 68.1 kg
   Height: 63 Inch
             Total In:
                                                                  1,154 mL
                                                                    325 mL
   PO:
             TF:
                                                                     90 mL
   IVF:
                                                                    914 mL
                                                                    325 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    443 mL
   Urine:
                                                                  1,555 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -401 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 457 (293 - 602) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 5.5 L/min
   Physical Examination
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   IJ in place.
   Chest: JP drain in left chest (chest tube) in place, breath sounds
   coarse
   Cor: Normal S1, S2. Regular, tachycardic. No murmurs appreciated.
   Abdomen: Soft, + distended.
   Extremity: Warm. 2+ DP pulses bilat. Trace LE to mid-calves
   bilaterally. Diffuse ecchymotic patches with some skin breaks.
   Skin: diffuse echymoses upper and lower extremities; L IJ in place,
   non-tender, non-erythematous
   Labs / Radiology
   205 K/uL
   8.7 g/dL
   130 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.5 mEq/L
   26 mg/dL
   110 mEq/L
   147 mEq/L
   27.7 %
   6.3 K/uL
        [image002.jpg]
                             [**2141-6-9**]  02:51 AM
                             [**2141-6-9**]  04:05 AM
                             [**2141-6-9**]  03:07 PM
                             [**2141-6-9**]  03:33 PM
                             [**2141-6-10**]  02:49 AM
                             [**2141-6-11**]  03:56 AM
                             [**2141-6-11**]  12:13 PM
                             [**2141-6-12**]  04:26 AM
                             [**2141-6-12**]  04:58 AM
                             [**2141-6-13**]  03:22 AM
   WBC
   13.0
   5.8
   9.2
   6.8
   5.3
   6.3
   Hct
   34.4
   34.0
   30.0
   26.9
   27.0
   25.2
   27.7
   Plt
   [**Telephone/Fax (3) 8836**]21
   185
   205
   Cr
   1.2
   1.2
   1.1
   1.0
   0.8
   0.9
   TropT
   0.02
   TCO2
   29
   34
   35
   Glucose
   [**Telephone/Fax (3) 8837**]44
   142
   130
   Other labs: PT / PTT / INR:13.6/137.7/1.2, CK / CKMB /
   Troponin-T:216/6/0.02, ALT / AST:22/30, Alk Phos / T Bili:83/0.2,
   Lactic Acid:2.5 mmol/L, Albumin:3.5 g/dL, LDH:268 IU/L, Ca++:8.4 mg/dL,
   Mg++:3.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   81 yo woman with h/o dCHF, COPD and eosinophilic lung disease presents
   with acute onset of respiratory distress in setting of several days of
   worsening dyspnea.
   # Acute on chronic respiratory failure: Most likely etiology is COPD
   exacerbation with RLL MSSA/pseudomonas PNA.  CTA neg for PE. Of note,
   patient has a history of poorly differentiated eosinophilic pneumonitis
   based on bx in [**2138**] of mucosa. RSBI of 57 on pressure support trial
   [**6-20**]. Patient now awake and appears ready for extubation.
   - extubate today, transition to intermittent BiPAP
   - continue treatment of PNA with nafcillin and ciprofloxacin x8 days
   (starting date [**6-12**])
   - standing albuterol and ipratropium MDI
   - continue prednisone 40 mg, slow taper over 2 weeks
   # PTX: Still with evidence of leak. Complication of placing L IJ as pt
   abruptly sat partway up during procedure.  Pt is s/p pigtail placement
   with good decompression
   - continue suction, transition to water seal later today if no leak
   - daily CXR
   # ECG changes: Most likely secondary to transient demand ischemia in
   setting of respiratory distress
   - resume home ASA and statin with OGT placement
   - hold BB in setting of labile BP, however will restart as soon as able
   # Anemia: HCT currently stable. Work-up in [**1-23**] c/w AOCD and possible
   Fe deficiency. [**Month (only) 60**] need further w/u as outpt.
   - continue to follow daily hct
   # Acute renal failure:  Resolved.  Patient
s Cr on admission was 1.0
   and trend is 1.2-> 0.8.  Patient did receive dye load for CTA.
   # Hyperglycemia:  Controlled
   -continue sliding scale
   # Hypernatremia: 147 from 145 yesterday
   - encourage free water intake after extubation
   ICU Care
   Nutrition: start pos after extubation, advance diet as tolerated
   Glycemic Control:  Controlled
   Lines:  (can remove L IJ line today)
   Multi Lumen - [**2141-6-9**] 05:00 PM
   PICC Line - [**2141-6-11**] 12:36 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending improvement in respiratory status

2141-06-14 06:53:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   - Extubated
   - Trial of BiPAP: Initial agition improved with ativan.
   - Stopped BiPAP at [**2132**] with [**2162**] VBG of 7.47/55
   - Diuresed with 20 IV lasix
   - Cipro administered IV as not taking PO [**3-20**] lethargy and bipap
   - Noted to have improved cough with thick bloody secretions when
   suctioned
   - Pt currently with only BM but without abdominal pain. Complaining
   only of feeling thirsty.
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2141-6-11**] 08:22 AM
   Levofloxacin - [**2141-6-11**] 09:00 PM
   Ciprofloxacin - [**2141-6-13**] 08:45 PM
   Nafcillin - [**2141-6-14**] 12:02 AM
   Metronidazole - [**2141-6-14**] 12:47 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2141-6-13**] 03:43 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-13**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-14**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.7
C (96.3
   HR: 66 (63 - 111) bpm
   BP: 108/54(67) {103/51(64) - 163/98(110)} mmHg
   RR: 17 (8 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 68.1 kg
   Height: 63 Inch
             Total In:
                                                                  1,132 mL
                                                                    200 mL
   PO:
             TF:
   IVF:
                                                                  1,132 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,873 mL
                                                                    510 mL
   Urine:
                                                                  3,820 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,741 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (500 - 550) mL
   PS : 10 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.38/58/131/33/7
   Ve: 8 L/min
   PaO2 / FiO2: 374
   Physical Examination
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   IJ in place.
   Chest: JP drain in left chest (chest tube) in place, breath sounds
   coarse b/l
   Cor: Normal S1, S2. Regular, tachycardic. No murmurs appreciated.
   Abdomen: BS present in all quadrants but slightly hypoactive. Soft, +
   mild distended without tenderness.
   Extremity: Warm. 2+ DP pulses bilat. Diffuse ecchymotic patches with
   some skin breaks.
   Skin: diffuse echymoses upper and lower extremities; L IJ in place,
   non-tender, non-erythematous
   Labs / Radiology
   216 K/uL
   8.6 g/dL
   99 mg/dL
   0.7 mg/dL
   33 mEq/L
   2.9 mEq/L
   15 mg/dL
   106 mEq/L
   146 mEq/L
   27.1 %
   5.9 K/uL
        [image002.jpg]
                             [**2141-6-9**]  03:33 PM
                             [**2141-6-10**]  02:49 AM
                             [**2141-6-11**]  03:56 AM
                             [**2141-6-11**]  12:13 PM
                             [**2141-6-12**]  04:26 AM
                             [**2141-6-12**]  04:58 AM
                             [**2141-6-13**]  03:22 AM
                             [**2141-6-13**]  12:34 PM
                             [**2141-6-13**]  02:52 PM
                             [**2141-6-14**]  03:13 AM
   WBC
   5.8
   9.2
   6.8
   5.3
   6.3
   5.9
   Hct
   34.0
   30.0
   26.9
   27.0
   25.2
   27.7
   27.1
   Plt
   245
   291
   221
   185
   205
   216
   Cr
   1.2
   1.1
   1.0
   0.8
   0.9
   0.8
   0.7
   TCO2
   35
   36
   Glucose
   [**Telephone/Fax (3) 8862**]42
   130
   142
   99
   Other labs: Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL, [**6-9**] and
   [**6-13**] blood cx NGTD
   Assessment and Plan
   81 yo woman with h/o dCHF, COPD and eosinophilic lung disease presents
   with acute onset of respiratory distress in setting of several days of
   worsening dyspnea.
   # Acute on chronic respiratory failure: Most likely etiology is COPD
   exacerbation with RLL MSSA/pseudomonas PNA.  CTA neg for PE. Of note,
   patient has a history of poorly differentiated eosinophilic pneumonitis
   based on bx in [**2138**] of mucosa. RSBI of 57 on pressure support trial
   [**6-20**]. Patient now awake and appears ready for extubation.
   - extubate today, transition to intermittent BiPAP
   - continue treatment of PNA with nafcillin and ciprofloxacin x8 days
   (starting date [**6-12**])
   - standing albuterol and ipratropium MDI
   - continue prednisone 40 mg, slow taper over 2 weeks
   # PTX: Still with evidence of leak. Complication of placing L IJ as pt
   abruptly sat partway up during procedure.  Pt is s/p pigtail placement
   with good decompression
   - continue suction, transition to water seal later today if no leak
   - daily CXR
   # ECG changes: Most likely secondary to transient demand ischemia in
   setting of respiratory distress
   - resume home ASA and statin with OGT placement
   - hold BB in setting of labile BP, however will restart as soon as able
   # Anemia: HCT currently stable. Work-up in [**1-23**] c/w AOCD and possible
   Fe deficiency. [**Month (only) 60**] need further w/u as outpt.
   - continue to follow daily hct
   # Acute renal failure:  Resolved.  Patient
s Cr on admission was 1.0
   and trend is 1.2-> 0.8.  Patient did receive dye load for CTA.
   # Hyperglycemia:  Controlled
   -continue sliding scale
   # Hypernatremia: 147 from 145 yesterday
   - encourage free water intake after extubation
   ICU Care
   Nutrition: start pos after extubation, advance diet as tolerated
   Glycemic Control:  Controlled
   Lines:  (can remove L IJ line today)
   Multi Lumen - [**2141-6-9**] 05:00 PM
   PICC Line - [**2141-6-11**] 12:36 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending improvement in respiratory status

2141-06-14 11:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failiure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient extubated
   Intermittent BIPAP support needed
   24 Hour Events:
 MULTI LUMEN - STOP [**2141-6-13**] 02:02 PM
   History obtained from Patient
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2141-6-11**] 09:00 PM
   Metronidazole - [**2141-6-14**] 12:47 AM
   Nafcillin - [**2141-6-14**] 06:00 AM
   Ciprofloxacin - [**2141-6-14**] 11:09 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2141-6-13**] 03:43 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-14**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2141-6-14**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 84 (60 - 111) bpm
   BP: 131/64(82) {103/51(64) - 141/86(99)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 68.1 kg
   Height: 63 Inch
             Total In:
                                                                  1,132 mL
                                                                    550 mL
   PO:
             TF:
   IVF:
                                                                  1,132 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                  3,873 mL
                                                                    973 mL
   Urine:
                                                                  3,820 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,741 mL
                                                                   -423 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (550 - 550) mL
   PS : 10 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.38/58/131/33/7
   Ve: 8 L/min
   PaO2 / FiO2: 262
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : , Dullness : ), (Breath Sounds: Bronchial: , Wheezes : ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Mild hypoactive BS
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   216 K/uL
   99 mg/dL
   0.7 mg/dL
   33 mEq/L
   2.9 mEq/L
   15 mg/dL
   106 mEq/L
   146 mEq/L
   27.1 %
   5.9 K/uL
        [image002.jpg]
                             [**2141-6-9**]  03:33 PM
                             [**2141-6-10**]  02:49 AM
                             [**2141-6-11**]  03:56 AM
                             [**2141-6-11**]  12:13 PM
                             [**2141-6-12**]  04:26 AM
                             [**2141-6-12**]  04:58 AM
                             [**2141-6-13**]  03:22 AM
                             [**2141-6-13**]  12:34 PM
                             [**2141-6-13**]  02:52 PM
                             [**2141-6-14**]  03:13 AM
   WBC
   5.8
   9.2
   6.8
   5.3
   6.3
   5.9
   Hct
   34.0
   30.0
   26.9
   27.0
   25.2
   27.7
   27.1
   Plt
   245
   291
   221
   185
   205
   216
   Cr
   1.2
   1.1
   1.0
   0.8
   0.9
   0.8
   0.7
   TCO2
   35
   36
   Glucose
   [**Telephone/Fax (3) 8862**]42
   130
   142
   99
   Other labs: PT / PTT / INR:13.6/137.7/1.2, CK / CKMB /
   Troponin-T:216/6/0.02, ALT / AST:22/30, Alk Phos / T Bili:83/0.2,
   Lactic Acid:2.5 mmol/L, Albumin:3.5 g/dL, LDH:268 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: AG-7
   Imaging: CXR-
   Assessment and Plan
   81 yo female with COPD--severe and hospital admission complicated by
   PTX with CVL placement who now has been extubated with continued
   intermittent need for [**Hospital1 **]-level support.
   1)Respiratory Failiure-_This clealy was secondary to PNA and COPD flare
   and complicated by PTX.  Patient has been able to tolerate extubation
   with improved stability of oxygenation and capacity to wean to face
   tent o2.
   -OOB to chair today
   -Cough and deep breath
   -Incentive spirometry
   2)COPD-
   -Xopenex
   -Atrovent
   -Wean O2 as possible
   -Will look to wean steroids as possible today
   3)Pneumothorax-She still has reasonable volume of air leak, is
   respirophasic and with substantial increase with cough and given
   tenuous respiratory status and continued high O2 requirement will-->
   -Continue with suction
   -CXR in am
   4)Pneumonia-
   -Naf/Cipro
 IMPAIRED SKIN INTEGRITY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition: TF
s held for extubation---po intake to trial is S+S pass
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2141-6-11**] 12:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2141-06-15 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Diet progressed to pureed solids, thin liquids w/ 1:1 supervision per
   S+S recs
   - Left pneumothorax not visible and decreased subcutaneous air on
   repeat CXR. Pigtail cath in left apex unchanged.
   - Tachy to 160s around 7PM (irregular - EKG AF vs Aflutter) in setting
   of coughing/nebs. Rate came down after 10 of IV Lopressor. Pt restarted
   started her home metoprolol at 12.5 mg [**Hospital1 **].
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-14**] 11:00 PM
   Metronidazole - [**2141-6-15**] 06:35 AM
   Nafcillin - [**2141-6-15**] 06:35 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2141-6-14**] 08:05 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-14**] 11:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-15**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 78 (60 - 130) bpm
   BP: 143/62(83) {95/52(59) - 143/94(104)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 68.1 kg
   Height: 63 Inch
             Total In:
                                                                  1,400 mL
                                                                    300 mL
   PO:
             TF:
   IVF:
                                                                  1,400 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,773 mL
                                                                    490 mL
   Urine:
                                                                  1,730 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -373 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 98%
   ABG: 7.45/43/99.[**Numeric Identifier 253**]/28/4
   PaO2 / FiO2: 286
   Physical Examination
   Gen: AAO x 3, responds appropriately to questions with short sentences,
   voice hoarse, tired appearing but in NAD
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   IJ in place.
   Chest: JP drain in left chest (chest tube) in place, crepitus
   improving, breath sounds coarse b/l
   Cor: Normal S1, S2. Regular, tachycardic. No murmurs appreciated.
   Abdomen: BS present in all quadrants but slightly hypoactive. Soft, +
   mild distended without tenderness.
   Extremity: Warm. 2+ DP pulses bilat. Diffuse ecchymotic patches with
   some skin breaks.
   Skin: diffuse echymoses upper and lower extremities; L IJ in place,
   non-tender, non-erythematous
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   231 K/uL
   9.4 g/dL
   87 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.0 mEq/L
   13 mg/dL
   109 mEq/L
   146 mEq/L
   29.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2141-6-11**]  12:13 PM
                             [**2141-6-12**]  04:26 AM
                             [**2141-6-12**]  04:58 AM
                             [**2141-6-13**]  03:22 AM
                             [**2141-6-13**]  12:34 PM
                             [**2141-6-13**]  02:52 PM
                             [**2141-6-14**]  03:13 AM
                             [**2141-6-14**]  04:04 PM
                             [**2141-6-15**]  02:52 AM
                             [**2141-6-15**]  03:25 AM
   WBC
   5.3
   6.3
   5.9
   6.7
   Hct
   27.0
   25.2
   27.7
   27.1
   29.9
   Plt
   185
   205
   216
   231
   Cr
   0.8
   0.9
   0.8
   0.7
   0.7
   0.7
   TCO2
   35
   36
   31
   Glucose
   142
   130
   142
   99
   138
   87
   Other labs: PT / PTT / INR:13.6/137.7/1.2, CK / CKMB /
   Troponin-T:216/6/0.02, ALT / AST:22/30, Alk Phos / T Bili:83/0.2,
   Lactic Acid:2.5 mmol/L, Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   81 yo woman with h/o dCHF, COPD and eosinophilic lung disease presents
   with acute onset of respiratory distress in setting of several days of
   worsening dyspnea.
   # Acute on chronic respiratory failure: Most likely etiology is COPD
   exacerbation with RLL MSSA/pseudomonas PNA.  CTA neg for PE. Of note,
   patient has a history of poorly differentiated eosinophilic pneumonitis
   based on bx in [**2138**] of mucosa. Doing well s/p extubation yesterday.
   -Continue treatment of PNA with nafcillin and ciprofloxacin x 7 days
   (starting date [**6-12**])
   - Standing albuterol, ipratropium MDI, and slow prednisone taper over 2
   weeks for COPD
   # PTX: Still with evidence of leak. Complication of placing L IJ as pt
   abruptly sat partway up during procedure.  Pt is s/p pigtail placement
   with good decompression
   - Continue suction for now
   - Transition to water seal at MN per IP recs and recheck CXR in AM
   # ECG changes: Most likely secondary to transient demand ischemia in
   setting of respiratory distress
   - Resume ASA 81mg po, continue statin
   - Holding BB for now but will restart if BP remain stable
   # Anemia: Hct currently stable. Work-up in [**1-23**] c/w AOCD and possible
   Fe deficiency. [**Month (only) 60**] need further w/u as outpt.
   - Continue to follow daily hct
   # Acute renal failure:  Resolved.  Patient
s Cr on admission was 1.0
   and trend is 1.2-> 0.8.  Patient did receive dye load for CTA.
   # Hyperglycemia:  Controlled
   -continue sliding scale
   # Mild hypernatremia: Improved from yesterday without intervention.
   - Trend
   ICU Care
   Nutrition: Advance diet as tolerated if cleared by S/S
   Glycemic Control:  Controlled
   Lines
      PICC Line - [**2141-6-11**] 12:36 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending improvement in respiratory status

2141-06-15 12:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2141-6-14**] 07:52 PM
   Patient with transient A-Fib with RVR controlled with lopressor
   Patient with no evidence of recurrent PTX on CXR
   Supervised PO intake tolerated by speech and swallow team
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-14**] 11:00 PM
   Nafcillin - [**2141-6-15**] 06:35 AM
   Metronidazole - [**2141-6-15**] 07:55 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2141-6-14**] 08:05 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-14**] 11:52 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2141-6-15**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 74 (74 - 130) bpm
   BP: 139/67(86) {95/52(59) - 143/94(104)} mmHg
   RR: 19 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 68.1 kg
   Height: 63 Inch
             Total In:
                                                                  1,400 mL
                                                                    640 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  1,400 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,773 mL
                                                                    590 mL
   Urine:
                                                                  1,730 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -373 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.45/43/99.[**Numeric Identifier 253**]/28/4
   PaO2 / FiO2: 286
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Loud)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   231 K/uL
   87 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.0 mEq/L
   13 mg/dL
   109 mEq/L
   146 mEq/L
   29.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2141-6-11**]  12:13 PM
                             [**2141-6-12**]  04:26 AM
                             [**2141-6-12**]  04:58 AM
                             [**2141-6-13**]  03:22 AM
                             [**2141-6-13**]  12:34 PM
                             [**2141-6-13**]  02:52 PM
                             [**2141-6-14**]  03:13 AM
                             [**2141-6-14**]  04:04 PM
                             [**2141-6-15**]  02:52 AM
                             [**2141-6-15**]  03:25 AM
   WBC
   5.3
   6.3
   5.9
   6.7
   Hct
   27.0
   25.2
   27.7
   27.1
   29.9
   Plt
   185
   205
   216
   231
   Cr
   0.8
   0.9
   0.8
   0.7
   0.7
   0.7
   TCO2
   35
   36
   31
   Glucose
   142
   130
   142
   99
   138
   87
   Other labs: PT / PTT / INR:13.6/137.7/1.2, CK / CKMB /
   Troponin-T:216/6/0.02, ALT / AST:22/30, Alk Phos / T Bili:83/0.2,
   Lactic Acid:2.5 mmol/L, Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Microbiology: MSSA and Pseudomonas only from previou sputum.  No
   further positive cultures.
   Assessment and Plan
   81 yo female with severe COPD and now with respiratory failure in the
   setting of MSSA and Pseudomonas PNA.
   Respiratory Failure-
   -Nafcillin/Cipro/Flagyl (6 days left)
   -Pred 40mg po qd and will continue to wean
   -continue with bronchodilators
   Pneumothorax-
   -She has CT to water seal
   -CXR on my review does not show PTX
   -Will continue with water seal and CXR check tonight if any change or
   otherwise in AM regularly.
 IMPAIRED SKIN INTEGRITY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   PICC Line - [**2141-6-11**] 12:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :[**Hospital **]
Transfer to floor
   Total time spent: 35 minutes

2141-06-16 10:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   pt with continued air leak--1 chamber
   Continued wheeze
   Continued tachypnea
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-15**] 09:40 PM
   Nafcillin - [**2141-6-16**] 05:44 AM
   Metronidazole - [**2141-6-16**] 08:19 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-6-15**] 02:29 PM
   Morphine Sulfate - [**2141-6-15**] 02:39 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-16**] 05:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, Dyspnea, Tachypnea, Wheeze
   Flowsheet Data as of  [**2141-6-16**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 85 (67 - 95) bpm
   BP: 136/82(95) {73/55(59) - 144/110(107)} mmHg
   RR: 27 (17 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 68.1 kg
   Height: 63 Inch
             Total In:
                                                                  1,380 mL
                                                                    500 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    900 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,797 mL
                                                                  1,905 mL
   Urine:
                                                                  1,785 mL
                                                                  1,905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -417 mL
                                                                 -1,405 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 577 (114 - 577) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.55/34/156/29/7
   Ve: 9.5 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : , Diminished: ), continued crepitus
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   281 K/uL
   77 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.2 mEq/L
   9 mg/dL
   106 mEq/L
   144 mEq/L
   31.0 %
   6.1 K/uL
        [image002.jpg]
                             [**2141-6-13**]  03:22 AM
                             [**2141-6-13**]  12:34 PM
                             [**2141-6-13**]  02:52 PM
                             [**2141-6-14**]  03:13 AM
                             [**2141-6-14**]  04:04 PM
                             [**2141-6-15**]  02:52 AM
                             [**2141-6-15**]  03:25 AM
                             [**2141-6-15**]  06:30 PM
                             [**2141-6-16**]  04:46 AM
                             [**2141-6-16**]  06:36 AM
   WBC
   6.3
   5.9
   6.7
   6.1
   Hct
   27.7
   27.1
   29.9
   31.0
   Plt
   [**Telephone/Fax (3) 8884**]81
   Cr
   0.9
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   36
   31
   31
   Glucose
   130
   142
   99
   138
   87
   166
   77
   Other labs: PT / PTT / INR:13.6/137.7/1.2, CK / CKMB /
   Troponin-T:216/6/0.02, ALT / AST:22/30, Alk Phos / T Bili:83/0.2,
   Lactic Acid:2.5 mmol/L, Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR--Improved aeration at bases from yesterday film--likely
   improved effusion but more likely improved
   Assessment and Plan
   81 yo female with significant COPD and pneumonia with respiratory
   failure now showing some persistent wheezing and tachypnea.  She has
   important findings of low CO2 on ABG which would argue against strong
   component of persistent and fixed airways obstruction.  She has some
   argument for improvement with Rx of volume overload but does not appear
   aggressive diuresis.
   1)Respiratory Failure-
   COPD--Continue Pred 40mg and Nebulizers
   CHF--Standing and home dose of Lasix
   Pneumonia--Continue Abx
   Anxiety--will use 0.5mg IV Ativan to continue for component of anxiety
   Willl maintain in ICU given tenous resp status, intermittent BIPAP need
   and paroxysms of resp distress needing increased nursing attention.
 IMPAIRED SKIN INTEGRITY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-6-11**] 12:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: PO diet, plan D/W patient
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2141-06-16 12:12:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   - Speech & swallow ok'd advancement to soft/thin
   - Placed on waterseal at 2am. Leak intermittently not observed. CXR
   with worsening of left lower lobe atelectasis with improved aeration at
   the right base, bilateral subcutaneous emphysema again noted.
   - Trazadone 25mg x 1 for insomnia
   - Became SOB intermittently despite satting well; thought to be [**3-20**]
   anxiety. Given ativan prn. Given multiple xoponex nebs for wheeziness,
   also diuresed with lasix 40mg IV. Copious amount of thick bloody (old)
   secretions.
   - This AM, started on bipap for another episode of acute respiratory
   distress but discontinued as again thought to be secondary to anxiety
   and in setting of drop in SBP to 70s and +/- decreased LUL breath
   sounds +/- increased leak. Resolution of hypotension when returned to
   35% face mask.
   - Pt currently reports feeling rested with comfortable breathing.
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2141-6-16**] 08:19 AM
   Ciprofloxacin - [**2141-6-16**] 10:51 AM
   Nafcillin - [**2141-6-16**] 11:56 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-6-15**] 02:29 PM
   Morphine Sulfate - [**2141-6-15**] 02:39 PM
   Heparin Sodium (Prophylaxis) - [**2141-6-16**] 05:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-16**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.3
   HR: 73 (67 - 95) bpm
   BP: 109/68(79) {73/55(59) - 144/110(107)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 68.1 kg
   Height: 63 Inch
             Total In:
                                                                  1,380 mL
                                                                    867 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    900 mL
                                                                    867 mL
   Blood products:
   Total out:
                                                                  1,797 mL
                                                                  2,165 mL
   Urine:
                                                                  1,785 mL
                                                                  2,165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -417 mL
                                                                 -1,298 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 577 (114 - 577) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.55/34/156/29/7
   Ve: 9.5 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Gen: AAO x 3, more alert this AM and in NAD, responds appropriately to
   questions
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation
   Chest: JP drain in left chest (chest tube) in place, crepitus over
   mediastinum and left chest, +coarse expiratory wheezes
   Cor: Normal S1, S2. Regular, tachycardic. No murmurs appreciated.
   Abdomen: BS present in all quadrants but slightly hypoactive. Soft, +
   mild distended without tenderness.
   Extremity: Warm. 2+ DP pulses bilat.
   Skin: Diffuse ecchymotic patches with some skin breaks.
   Labs / Radiology
   281 K/uL
   9.9 g/dL
   77 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.2 mEq/L
   9 mg/dL
   106 mEq/L
   144 mEq/L
   31.0 %
   6.1 K/uL
        [image002.jpg]
                             [**2141-6-13**]  03:22 AM
                             [**2141-6-13**]  12:34 PM
                             [**2141-6-13**]  02:52 PM
                             [**2141-6-14**]  03:13 AM
                             [**2141-6-14**]  04:04 PM
                             [**2141-6-15**]  02:52 AM
                             [**2141-6-15**]  03:25 AM
                             [**2141-6-15**]  06:30 PM
                             [**2141-6-16**]  04:46 AM
                             [**2141-6-16**]  06:36 AM
   WBC
   6.3
   5.9
   6.7
   6.1
   Hct
   27.7
   27.1
   29.9
   31.0
   Plt
   [**Telephone/Fax (3) 8884**]81
   Cr
   0.9
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   36
   31
   31
   Glucose
   130
   142
   99
   138
   87
   166
   77
   Other labs: Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   81 yo woman with h/o dCHF, COPD and eosinophilic lung disease presents
   with acute onset of respiratory distress in setting of several days of
   worsening dyspnea.
   # Acute on chronic respiratory failure: Most likely etiology is COPD
   exacerbation with RLL MSSA/pseudomonas PNA.  [**Month (only) 60**] also have component
   from CHF as not on home meds. CTA neg for PE. Of note, patient has a
   history of poorly differentiated eosinophilic pneumonitis based on bx
   in [**2138**] of mucosa. Continuing to do well s/p extubation.
   - Will complete 7-day course nafcillin and cipro for PNA (start date
   [**6-12**])
   - Restart home diuretic Lasix 80mg daily
   - Standing albuterol, ipratropium MDI, and slow prednisone taper (day 5
   of 40mg) over ~2 weeks for COPD
   - Low dose klonopin [**Hospital1 **] for anxiety, trazodone prn qhs for insomnia
   - Trial of weaning pt to nasal cannula
   # PTX: Complication of placing L IJ as pt abruptly sat partway up
   during procedure, s/p pigtail placement with good decompression. Still
   with evidence of leak but tolerating water seal with no evidence of PTX
   on serial CXRs.
   - F/u IP recs: continue water seal ~24-48 hours or until air leak
   resolves
   - Daily CXR
   # ECG changes: Most likely secondary to transient demand ischemia in
   setting of respiratory distress
   - Continue ASA 81mg po, statin; beta blocker restarted at home dose
   # Anemia: Hct currently stable. Work-up in [**1-23**] c/w AOCD and possible
   Fe deficiency. [**Month (only) 60**] need further w/u as outpt.
   - Continue to follow daily hct
   # Acute renal failure:  Resolved.  Patient
s Cr on admission was 1.0
   and trend is 1.2-> 0.7.  Patient did receive dye load for CTA.
   # Hyperglycemia:  Controlled
   -continue sliding scale
   # Electrolytes: Recheck PM lytes given mild hypokalemia in setting of
   diuresis
   ICU Care
   Nutrition: Advance diet as tolerated if cleared by S/S
   Glycemic Control:  Controlled
   Lines
      PICC Line - [**2141-6-11**] 12:36 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU today, possible call-out tomorrow to floor v. [**Hospital **]
   Rehab

2141-06-17 06:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress
   24 Hour Events:
   - ABG cons with resp alk, patient anxious at time.
   - Restart home lasix (80mg po daily +/- 40mg po qPM)
   - CXR with increasing sub Q air possibly from PNX --> CT placed on
   suction
   - S&S --> video swallow on Monday.
   - O2 decreased to 4L NC
   - Screening for rehab --> realistically on Monday
   - during rounds, patient hypotensive to SBP 80s
   - c/o fatigue
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-16**] 09:42 PM
   Metronidazole - [**2141-6-16**] 11:59 PM
   Nafcillin - [**2141-6-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-17**] 05:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-17**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 86 (73 - 92) bpm
   BP: 112/63(74) {73/18(35) - 139/82(95)} mmHg
   RR: 16 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 68.1 kg
   Height: 63 Inch
             Total In:
                                                                  1,560 mL
                                                                    100 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,500 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  4,115 mL
                                                                    590 mL
   Urine:
                                                                  3,985 mL
                                                                    550 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -2,555 mL
                                                                   -490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 577 (114 - 577) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.55/34/156/29/7
   Ve: 9.5 L/min
   PaO2 / FiO2: 446
   Physical Examination
   Gen: awake and interactive but more lethargic than previous
   Neck: supple, no JVD
   Chest: RRR, normal S1/S2
   Heart: scattered expiratory wheezes
   Abdomen: soft and non-tender
   Extremity: non-edematous, diffuse bruising on shins, unchanged
   Labs / Radiology
   296 K/uL
   9.6 g/dL
   89 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.3 mEq/L
   8 mg/dL
   103 mEq/L
   140 mEq/L
   29.4 %
   6.9 K/uL
        [image002.jpg]
                             [**2141-6-13**]  02:52 PM
                             [**2141-6-14**]  03:13 AM
                             [**2141-6-14**]  04:04 PM
                             [**2141-6-15**]  02:52 AM
                             [**2141-6-15**]  03:25 AM
                             [**2141-6-15**]  06:30 PM
                             [**2141-6-16**]  04:46 AM
                             [**2141-6-16**]  06:36 AM
                             [**2141-6-16**]  05:51 PM
                             [**2141-6-17**]  03:04 AM
   WBC
   5.9
   6.7
   6.1
   6.9
   Hct
   27.1
   29.9
   31.0
   29.4
   Plt
   [**Telephone/Fax (3) 8901**]96
   Cr
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   31
   31
   Glucose
   142
   99
   138
   87
   166
   77
   136
   89
   Other labs: PT / PTT / INR:13.6/137.7/1.2, CK / CKMB /
   Troponin-T:216/6/0.02, ALT / AST:22/30, Alk Phos / T Bili:83/0.2,
   Lactic Acid:2.5 mmol/L, Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   An 81 yo woman with h/o dCHF, COPD and eosinophilic lung disease who
   presented with acute onset of respiratory distress in setting of
   several days of worsening dyspnea.
   # Acute on chronic respiratory failure: Most likely etiology is COPD
   exacerbation with RLL MSSA/pseudomonas PNA.  [**Month (only) 60**] also have component
   from CHF as not on home meds. CTA neg for PE. Of note, patient has a
   history of poorly differentiated eosinophilic pneumonitis based on bx
   in [**2138**] of mucosa. Continuing to do well s/p extubation.
   - Will complete 7-day course nafcillin and cipro for PNA (start date
   [**6-12**])
   - Hold Lasix due to hypotension this morning
   - Standing albuterol, ipratropium MDI, and slow prednisone taper (day 5
   of 40mg) over ~2 weeks for COPD
   - Low dose klonopin [**Hospital1 **] for anxiety, trazodone prn qhs for insomnia
   - Trial of weaning pt to nasal cannula
   # Hypotension: concerning for worsening pneumothorax versus hypovolemia
   (restarted Lasix yesterday) versus less likely sepsis or cardiac causes
   (ACS, cardiogenic shock).
   - Bolus with IVF 500 cc boluses
   - Check EKG to assess for ischemia, re-check CXR to assess pneumothorax
   - Re-check CBC to r/o bleed
   - Discontinue Lasix; discontinue lorazepam
   # PTX: Complication of placing L IJ as pt abruptly sat partway up
   during procedure, s/p pigtail placement with good decompression. Still
   with evidence of leak but tolerating water seal with no evidence of PTX
   on serial CXRs.
   - Continue chest tube to wall suction to allow pleural surfaces to
   adhere
   - Daily CXR
   # ECG changes: Most likely secondary to transient demand ischemia in
   setting of respiratory distress
   - Continue ASA 81mg po, statin; beta blocker restarted at home dose
   with holding parameters
   # Anemia: Hct currently stable. Work-up in [**1-23**] c/w AOCD and possible
   Fe deficiency. [**Month (only) 60**] need further w/u as outpt.
   - Continue to follow daily hct
   # Acute renal failure:  Resolved.  Patient
s Cr on admission was 1.0
   and trend is 1.2-> 0.7.  Patient did receive dye load for CTA.
   # Hyperglycemia:  Controlled
   -continue sliding scale
   # Electrolytes: Recheck PM lytes given mild hypokalemia in setting of
   diuresis
   ICU Care
   Nutrition: encourage pos
   Glycemic Control:  advance diet as tolerated
   Lines:
   PICC Line - [**2141-6-11**] 12:36 PM
   Prophylaxis:
   DVT: subcutaneous heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending bed at rehab
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) **]
s note above and
   agree with his findings and plan of care.  Mrs [**Known lastname 5488**] is well known to
   me and I have also spoken to to the patient
s family.  Overall she has
   done well since admission for respiratory failure due to RLL pneumonia
   and COPD exacerbation.  She is extubated and more comfortable, less
   wheezy, and with clearer mental status.  This AM she presented with
   hypotension into the 70
s systolic.  CXR and EKG unremarkable for PTX,
   new infiltrates, or MI.  She had gotten Lasix again yesterday, so we
   gave her 1L of IVF with nice return of SBP to over 100.  She still has
   an air leak, though not much of one, via her left Chest Tube, and
   hopefully, now that she is back on suction, her air leak will heal
   soon.  Given today
s hemodynamic instability, it would be prudent to
   watch her in the  MICU for at least another 24 hrs.   45  min spent in
   the care of this critically ill woman.
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2141-6-17**] 15:26 ------

2141-06-18 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - hypotensive to SBP 77 during morning rounds
   - gave 500 cc bolus with bump in SBP to 90s, then 110s
   - EKG- no ischemic changes
   - CXR- no acute changes (no ptx, no infiltrate)
   - repeat CBC- hct stable
   - continued ciprofloxacin and nafcillin
   - at 10PM, desatted to 70s in setting of panic attack, given nebs, CXR
   showed no significant difference, maybe slightly better, sat came back
   up to 98%
   - hypotensive to SBP 78 at MN
   - gave 1L bolus with rise in SBP to 80s, stopped metoprolol and lasix
   - Pt feeling better today
   - Still suctioning thick sputum
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-17**] 09:20 PM
   Metronidazole - [**2141-6-17**] 10:51 PM
   Nafcillin - [**2141-6-18**] 05:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-18**] 05:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-18**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 74 (67 - 93) bpm
   BP: 106/45(58) {61/39(44) - 128/91(89)} mmHg
   RR: 20 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 68.1 kg
   Height: 63 Inch
             Total In:
                                                                  1,800 mL
                                                                  1,200 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                  1,550 mL
                                                                  1,200 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    440 mL
   Urine:
                                                                  1,160 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    600 mL
                                                                    760 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Gen: awake in AM but more lethargic late AM s/p klonopin
   Neck: supple, no JVD
   Chest: RRR, normal S1/S2
   Heart: scattered expiratory wheezes
   Abdomen: soft and non-tender
   Extremity: non-edematous, diffuse bruising on shins, unchanged
   Labs / Radiology
   286 K/uL
   9.0 g/dL
   118 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.4 mEq/L
   8 mg/dL
   105 mEq/L
   136 mEq/L
   28.5 %
   8.4 K/uL
        [image002.jpg]
                             [**2141-6-14**]  04:04 PM
                             [**2141-6-15**]  02:52 AM
                             [**2141-6-15**]  03:25 AM
                             [**2141-6-15**]  06:30 PM
                             [**2141-6-16**]  04:46 AM
                             [**2141-6-16**]  06:36 AM
                             [**2141-6-16**]  05:51 PM
                             [**2141-6-17**]  03:04 AM
                             [**2141-6-17**]  10:44 AM
                             [**2141-6-18**]  03:01 AM
   WBC
   6.7
   6.1
   6.9
   7.6
   8.4
   Hct
   29.9
   31.0
   29.4
   28.8
   28.5
   Plt
   [**Telephone/Fax (3) 8917**]08
   286
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   31
   31
   Glucose
   138
   87
   166
   77
   136
   89
   118
   Other labs: PT / PTT / INR:15.4/28.4/1.4, Ca++:7.4 mg/dL, Mg++:1.9
   mg/dL, PO4:2.9 mg/dL. [**6-18**] Sputum cx: Gram stain with GNR, cx pending.
   Assessment and Plan
   Assessment and Plan
   An 81 yo woman with h/o dCHF, COPD and eosinophilic lung disease who
   presented with acute onset of respiratory distress in setting of
   several days of worsening dyspnea.
   # Acute on chronic respiratory failure: Most likely etiology is COPD
   exacerbation with RLL MSSA/pseudomonas PNA.  Does not seem to have
   large component from CHF at this time; diuresis limited by BP but
   satting ok and respirating comfortably. CTA neg for PE. Of note,
   patient has a history of poorly differentiated eosinophilic pneumonitis
   based on bx in [**2138**] of mucosa.
   - Will reevaluate abx regimen for persistent GNR in sputum
 Continue
   nafcillin and cipro (day 7 today) for now and f/u sputum cx
   - Holding home Lasix for now due to hypotension
   - Standing albuterol, ipratropium MDI, has completed pred 40mg x 6 days
   -> decrease to 30mg today with slow taper over ~2 weeks for COPD
   - Change standing klonopin back to prn ativan, trazodone prn qhs for
   insomnia
   - Trial of weaning pt to nasal cannula
   # Hypotension: No evidence of worsening ptx; likely hypovolemia in
   setting of poor po intake and restarting lasix; also restarted on home
   metoprolol.  [**Month (only) 60**] also be [**3-20**] standing klonopin. Cardiogenic unlikely
   given baseline EKG and sepsis unlikely given clinical picture and
   response to occasional fluid boluses. No e/o bleed; CBC table.
   - Bolus with IVF 500 cc boluses prn
   - Lasix and metoprolol being held; switched to prn ativan.
   - Encourage po intake
   # PTX: Complication of placing L IJ as pt abruptly sat partway up
   during procedure, s/p pigtail placement with good decompression.
   Currently with no evidence of air leak
   - Will place chest tube to water seal; may be able to d/c chest tube if
   no air leak x 24-48 hours
 will f/u IP recs
   - Daily CXR
   # ECG changes: Most likely secondary to transient demand ischemia in
   setting of respiratory distress
   - Continue ASA 81mg po, statin; holding beta blocker for now
   # Anemia: Hct currently stable. Work-up in [**1-23**] c/w AOCD and possible
   Fe deficiency. [**Month (only) 60**] need further w/u as outpt.
   - Continue to follow daily hct
   # Acute renal failure:  Resolved.  Patient
s Cr on admission was 1.0
   and trend is 1.2-> 0.7.  Patient did receive dye load for CTA.
   # Hyperglycemia:  Controlled
   -continue sliding scale
   # Electrolytes: Recheck PM lytes given mild hypokalemia in setting of
   diuresis
   ICU Care
   Nutrition: encourage pos
   Glycemic Control:  advance diet as tolerated
   Lines:
   PICC Line - [**2141-6-11**] 12:36 PM
   Prophylaxis:
   DVT: subcutaneous heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: In process of screening for bed at [**Hospital **] rehab
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined Mrs [**Known lastname 5488**] and was present for the key portions
   of the services provided. I have reviewed Dr [**Last Name (STitle) 8926**]
s note above and
   agree with her findings and plan of care.  Mrs [**Known lastname 5488**]
s resp status is
   slowly improving subjectively, and by CXR, though she continues to have
   a RLL infiltrate.  Her PTX has resolved and there is no air leak via
   chest tube. If this continues tomorrow, we will put tube to water seal
   and if still ok in 48 hrs then d/c tube.  Her COPD exac is improved
   enough to reduce steroid dose.  Benzo
s will be reduced and made prn to
   lessen current oversedation.  Lastly her BP conitnues to be on the low
   side and LOS I/O has been neg, and so we will continue to hold lasix
   and give IVF as needed.  Hopefully to floor if she can put together a
   24 hr period of stability on all fronts.
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2141-6-18**] 16:36 ------

2141-06-19 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress
   24 Hour Events:
   - Klonopin standing changed back to ativan prn [**3-20**] lethargy
   - Decreased prednisone to 30mg daily
   - No air leak: plan for waterseal if stable x 24 h, ?CT removal Tues
   - Awaiting bed at pulm rehab
   - Sputum cx growing GNR
   - Patient this morning complaining of cough, also complains of brief
   intermittent visual hallucinations (saw a floral pattern on the wall,
   thought the used towels container was jumping, etc) for several days
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-18**] 10:10 PM
   Metronidazole - [**2141-6-19**] 12:00 AM
   Nafcillin - [**2141-6-19**] 06:07 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-19**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-19**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 88 (72 - 96) bpm
   BP: 110/59(72) {88/45(56) - 124/68(77)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 68.1 kg
   Height: 63 Inch
             Total In:
                                                                  2,270 mL
                                                                    300 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                  2,000 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    635 mL
   Urine:
                                                                  1,575 mL
                                                                    185 mL
   NG:
   Stool:
   450 mL
   Drains:
   Balance:
                                                                    695 mL
                                                                   -335 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   Physical Examination
   Gen: speaking comfortably, no distress, alert and oriented x3
   Neck: supple, no JVD
   Chest: RRR, normal S1/S2
   Heart: scattered expiratory wheezes
   Abdomen: soft and non-tender
   Extremity: non-edematous, diffuse bruising on shins, unchanged
   Labs / Radiology
   327 K/uL
   9.1 g/dL
   116 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.3 mEq/L
   6 mg/dL
   109 mEq/L
   140 mEq/L
   29.2 %
   8.5 K/uL
        [image002.jpg]
                             [**2141-6-15**]  03:25 AM
                             [**2141-6-15**]  06:30 PM
                             [**2141-6-16**]  04:46 AM
                             [**2141-6-16**]  06:36 AM
                             [**2141-6-16**]  05:51 PM
                             [**2141-6-17**]  03:04 AM
                             [**2141-6-17**]  10:44 AM
                             [**2141-6-18**]  03:01 AM
                             [**2141-6-18**]  03:51 PM
                             [**2141-6-19**]  04:24 AM
   WBC
   6.7
   6.1
   6.9
   7.6
   8.4
   8.5
   Hct
   29.9
   31.0
   29.4
   28.8
   28.5
   29.2
   Plt
   [**Telephone/Fax (3) 8936**]
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   31
   Glucose
   87
   166
   77
   136
   89
   118
   147
   116
   Other labs: PT / PTT / INR:15.4/28.4/1.4, CK / CKMB /
   Troponin-T:216/6/0.02, ALT / AST:22/30, Alk Phos / T Bili:83/0.2,
   Lactic Acid:2.5 mmol/L, Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   An 81 yo woman with h/o dCHF, COPD and eosinophilic lung disease who
   presented with acute onset of respiratory distress in setting of
   several days of worsening dyspnea.
   # Acute on chronic respiratory failure: Most likely etiology is COPD
   exacerbation with RLL MSSA/pseudomonas PNA.  Does not seem to have
   large component from CHF at this time; diuresis limited by BP but
   satting ok and respirating comfortably. CTA neg for PE. Of note,
   patient has a history of poorly differentiated eosinophilic pneumonitis
   based on bx in [**2138**] of mucosa.
   - Continue nafcillin and cipro (day 8 today), today is the last day
   - Holding home Lasix for now due to hypotension
   - Standing albuterol, ipratropium MDI, has completed pred 40mg x 6d->
   decreased to 30mg yesterday; plan for slow 2wk taper
   - Continue prn ativan, trazodone prn qhs for anxiety and insomnia
   - Continue supplemental oxygen via nasal cannula
   # Hypotension: No evidence of worsening ptx; likely hypovolemia in
   setting of poor po intake and restarting lasix; also restarted on home
   metoprolol.  [**Month (only) 60**] also be [**3-20**] standing klonopin. Cardiogenic unlikely
   given normal EKG and sepsis unlikely given clinical picture and
   response to occasional fluid boluses. No e/o bleed; hematocrit table.
   - Bolus with IVF 500 cc boluses prn
   - Lasix and metoprolol being held; switched to prn ativan.
   - Encourage po intake
   # PTX: Complication of placing L IJ as pt abruptly sat partway up
   during procedure, s/p pigtail placement with good decompression.
   Currently with no evidence of air leak
   - Will place chest tube to water seal; may be able to d/c chest tube if
   no air leak x 24-48 hours
 will f/u IP recs
   - Daily CXR
   # ECG changes: Most likely secondary to transient demand ischemia in
   setting of respiratory distress
   - Continue ASA 81mg po, statin; holding beta blocker for now
   # Anemia: Hct currently stable. Work-up in [**1-23**] c/w AOCD and possible
   Fe deficiency. [**Month (only) 60**] need further w/u as outpt.
   - Continue to follow daily hct
   # Acute renal failure:  Resolved.  Patient
s creat on admission was 1.0
   and trend is 1.2-> 0.7.  Patient did receive dye load for CTA.
   # Hyperglycemia:  Controlled
   -continue sliding scale
   ICU Care
   Nutrition: encourage pos, repleting electrolytes
   Glycemic Control:  advance diet as tolerated
   Lines:
   PICC Line - [**2141-6-11**] 12:36 PM
   Prophylaxis:
   DVT: subcutaneous heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:
   Code status: Full code
   Disposition: call-out to floor today ; ultimately will need discharge
   to pulmonary rehab

2141-06-19 11:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Pneumothorax
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PTX with decreased air leak
   Cough worsening
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Nafcillin - [**2141-6-19**] 06:07 AM
   Metronidazole - [**2141-6-19**] 08:00 AM
   Ciprofloxacin - [**2141-6-19**] 10:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-6-19**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2141-6-19**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 83 (79 - 99) bpm
   BP: 109/61(73) {93/48(60) - 124/66(79)} mmHg
   RR: 21 (15 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 68.1 kg
   Height: 63 Inch
             Total In:
                                                                  2,270 mL
                                                                    846 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                  2,000 mL
                                                                    846 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    885 mL
   Urine:
                                                                  1,575 mL
                                                                    435 mL
   NG:
   Stool:
   450 mL
   Drains:
   Balance:
                                                                    695 mL
                                                                    -39 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   327 K/uL
   116 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.3 mEq/L
   6 mg/dL
   109 mEq/L
   140 mEq/L
   29.2 %
   8.5 K/uL
        [image002.jpg]
                             [**2141-6-15**]  03:25 AM
                             [**2141-6-15**]  06:30 PM
                             [**2141-6-16**]  04:46 AM
                             [**2141-6-16**]  06:36 AM
                             [**2141-6-16**]  05:51 PM
                             [**2141-6-17**]  03:04 AM
                             [**2141-6-17**]  10:44 AM
                             [**2141-6-18**]  03:01 AM
                             [**2141-6-18**]  03:51 PM
                             [**2141-6-19**]  04:24 AM
   WBC
   6.7
   6.1
   6.9
   7.6
   8.4
   8.5
   Hct
   29.9
   31.0
   29.4
   28.8
   28.5
   29.2
   Plt
   [**Telephone/Fax (2) 8936**]
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   31
   Glucose
   87
   166
   77
   136
   89
   118
   147
   116
   Other labs: PT / PTT / INR:15.4/28.4/1.4, CK / CKMB /
   Troponin-T:216/6/0.02, ALT / AST:22/30, Alk Phos / T Bili:83/0.2,
   Lactic Acid:2.5 mmol/L, Albumin:3.2 g/dL, LDH:268 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   81 yo female with severe COPD and now with some diminishment in air
   leak from left chest tube this morning but complicated by cough which
   is concerning for possible irritation or recurrent collapse.
   1)Respiratory Failure-
   -PTX--repeat CXR today and CT to water seal if CXR reassuring
   -Pneumonia--nef/Cipro to be completed today
   -Continue bronchodilators and steroid wean
 HYPOTENSION (NOT SHOCK)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    ineffective airway clearance
 IMPAIRED SKIN INTEGRITY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   PICC Line - [**2141-6-11**] 12:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes